US06197975B1
Step 3.2C {2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl]carbamic acid tert-butyl ester
The title compound was prepared essentially as described in EXAMPLE 2.1 StepE starting from {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl]-carbamic acid tert-butyl ester (330 mg) and using 10% palladium on carbon as catalyst to give the title compound (286 mg).

reactant | {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl]-carbamic acid tert-butyl ester | 330 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=CC(=C1)C)C)=O | C35H44N4O8S2
catalyst | palladium on carbon | [Pd] | Pd
product | {2-[5-amino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl]carbamic acid tert-butyl ester | 286 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)N)C1=CC(=CC(=C1)C)C)=O | C35H46N4O6S2
